Vprb (x p) vsource dc=0 type=dc
Vi (x p2) vsource dc=0 mag=0 type=dc
fiinj (0 n) pcccs gain=-1 probes=[ vprb Vi ] coeffs=[ 0 1 1 ]
evinj (n2 n p2 p) vcvs gain=-1
R38 (p2 4) resistor r=40.51K
R34 (p1 n) resistor r=4K
R35 (n1 p) resistor r=4K
R41 (n2 4) resistor r=40.51K
R39 (1 3) resistor r=40.51K
R42 (net19 1) resistor r=204.6
R40 (2 3) resistor r=40.51K
R37 (inp p1) resistor r=4K
R36 (inn n1) resistor r=4K
R43 (net16 2) resistor r=204.6
M0 (VBN VBN 0 0) nch_mac l=500n w=32.0u multi=1 nf=16
M7 (p2 4 0 0) nch_mac l=100n w=48.0u multi=1 nf=16
M8 (n2 4 0 0) nch_mac l=100n w=48.0u multi=1 nf=16
M10 (s VBN 0 0) nch_mac l=500n w=32.0u multi=1 nf=16
Iprb (0 x) isource dc=0 mag=1 type=dc
I26 (VDD VBN) isource dc=80u type=dc
Iadj (4 0) isource dc=5.926u type=dc
V11 (VDD 0) vsource dc=vdd type=dc
M1 (1 p1 s s) nch_lvt_mac l=100n w=96.0u multi=1 nf=32
M2 (2 n1 s s) nch_lvt_mac l=100n w=96.0u multi=1 nf=32
M3 (1 3 VDD VDD) pch_mac l=100n w=96.0u multi=1 nf=32
M5 (p2 1 VDD VDD) pch_mac l=100n w=192.000000u multi=1 nf=64
M6 (n2 2 VDD VDD) pch_mac l=100n w=192.000000u multi=1 nf=64
M4 (2 3 VDD VDD) pch_mac l=100n w=96.0u multi=1 nf=32
C1 (n2 net16) capacitor c=402f
C0 (p2 net19) capacitor c=402f