** sch_path: /home/ic7/test_xschem_sky130/test_amp.sch
**.subckt test_amp
XM1 net1 fb virtg GND sky130_fd_pr__nfet_01v8_lvt L=1 W=16 nf=8 ad=2.32 as=2.9 pd=18.32 ps=22.9 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=2 m=2
XM2 net2 vcm virtg GND sky130_fd_pr__nfet_01v8_lvt L=1 W=16 nf=8 ad=2.32 as=2.9 pd=18.32 ps=22.9 nrd=0.018125 nrs=0.018125 sa=0
+ sb=0 sd=0 mult=2 m=2
XM3 virtg vb GND GND sky130_fd_pr__nfet_01v8 L=1 W=16 nf=8 ad=2.32 as=2.9 pd=18.32 ps=22.9 nrd=0.018125 nrs=0.018125 sa=0 sb=0
+ sd=0 mult=1 m=1
XM4 vb vb GND GND sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
+ m=1
XM5 out vb GND GND sky130_fd_pr__nfet_01v8 L=1 W=32 nf=16 ad=4.64 as=5.22 pd=36.64 ps=41.22 nrd=0.0090625 nrs=0.0090625 sa=0 sb=0
+ sd=0 mult=1 m=1
V1 vcc GND 1.8
.save i(v1)
I0 vcc vb 1u
V2 vcm GND 0.9
.save i(v2)
XM6 net2 net1 vcc vcc sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=4 ad=0.58 as=0.87 pd=5.16 ps=7.74 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM7 out net2 vcc vcc sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=4 ad=0.58 as=0.87 pd=5.16 ps=7.74 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=4 m=4
XM9 net1 net1 vcc vcc sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=4 ad=0.58 as=0.87 pd=5.16 ps=7.74 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
Vstb out fb dc 0 ac 1
.save i(vstb)
Istb GND out dc 0 ac 0
**** begin user architecture code



.include test_amp.save
.option reltol=1e-5
+  abstol=1e-14 savecurrents
.control
  save all
  op
  remzerovec
  write test_amp.raw
  set appendwrite
  alter Vstb ac=1
  alter Istb ac=0
  ac dec 20 1 10G
  set vplot = $curplot;
  alter Vstb ac=0
  alter Istb ac=1
  ac dec 20 1 10G
  set iplot = $curplot;
  let v_out_v = {$vplot}.v(out)
  let v_fb_v  = {$vplot}.v(fb)
  let v_out_i = {$iplot}.v(out)
  let v_fb_i  = {$iplot}.v(fb)
  let T = (v_out_v * v_fb_i - v_fb_v) / (v_fb_v + v_out_v)
  let loop_phase = ph(T) * 180 / PI
  let loop_gain = db(T)
  plot loop_gain loop_phase ylimit -180 180
  meas ac gbw when loop_gain=0
  meas ac pm_at_gbw find loop_phase when loop_gain=0
  let pm = 180 + pm_at_gbw
  print pm
.endc



** opencircuitdesign pdks install
.lib /usr/local/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt

**** end user architecture code
**.ends
.GLOBAL GND
.end
